US04948899
2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methoxyethyl ester -(2-acetylthioethyl) ester (Compound 1)
A solution of 2.04 g of 2-acetylthioethyl acetoacetate, 1.51 g of 3-nitrobenzaldehyde, 1.49 g of methoxyethyl 3-aminocrotonate and 0.15 g of piperidinium acetate in 20 ml of 2-propanol was refluxed for 4 hours. After evaporation of the solvent under reduced pressure, the residue was purified by silica gel column chromatography [eluent: ethyl acetate - hexane (1 : 3)]to give 1.54 g of the title compound. m.p. 136-138° C.

reactant | 2-acetylthioethyl acetoacetate | 2.04 g | C(CC(=O)C)(=O)OCCSC(C)=O | C8H12O4S
reactant | 3-nitrobenzaldehyde | 1.51 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methoxyethyl 3-aminocrotonate | 1.49 g | N\C(=C/C(=O)OCCOC)\C | C7H13NO3
reactant | piperidinium acetate | 0.15 g | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-methoxyethyl ester -(2-acetylthioethyl) ester | 1.54 g | C(C)(=O)SCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCOC)C1=CC(=CC=C1)[N+](=O)[O-] | C22H26N2O8S
